US08877780B2
A stirred mixture of 4-ethylsulfonylbenzoic acid (0.64 g, 3.00 mmol) and CDI (0.51 g, 3.15 mmol) in N,N-dimethylformamide (34 mL) was heated to 40° C. under nitrogen. After 2 h, 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate (1.15 g, 3.00 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (150 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×100 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (EtOAc/hexanes, gradient). The product fractions were combined and concentrated to give N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethanesulfonyl-benzamide as a white solid (0.63 g, 44% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 2.66 min (97.99%); mp: 182-184° C.; 1H NMR (DMSO-d6) δ 1.11 (t, J=7.4 Hz, 3H), 2.00-2.18 (m, 1H), 2.54-2.68 (m, 2H), 2.80-2.99 (m, 1H), 3.35 (q, J=7.4 Hz, 2H), 4.68 (d, J=5.7 Hz, 2H), 5.15 (dd, J=5.3, 12.8 Hz, 1H), 7.77-7.97 (m, 3H), 7.98-8.07 (m, 2H), 8.08-8.25 (m, 2H), 9.49 (t, J=5.8 Hz, 1H), 11.12 (s, 1H); 13C NMR (DMSO-d6) δ 7.06, 21.99, 30.93, 42.77, 49.02, 122.08, 123.58, 128.03, 128.32, 129.90, 131.63, 133.53, 138.50, 140.85, 147.11, 165.24, 166.96, 167.10, 169.82, 172.75; LCMS: MH=484; Anal Calcd for C23H21N3O7S+0.45H2O: C, 56.19; H, 4.49; N, 8.55. Found: C, 55.87; H, 4.47; N, 8.28.

reactant | 4-ethylsulfonylbenzoic acid | 3.00 mmol, 0.64 g | C(C)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H10O4S
reactant | CDI | 3.15 mmol, 0.51 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione methane sulfonate | 3.00 mmol, 1.15 g | CS(=O)(=O)O.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 34 mL | CN(C=O)C | C3H7NO
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-ethanesulfonyl-benzamide | 0.63 g, 44% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)S(=O)(=O)CC)=O)=O)=O | C23H21N3O7S
